US05665718
A suspension of 1.85 g (4.74 mmol) of (S)-8-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one in 30 ml of N,N-dimethylformamide was treated with 1.73 g (23.7 mmol) of diethylamine. After stirring at room temperature for 16 hrs. the solution obtained was completely freed from the solvents. The residue was chromatographed over silica gel with methylene chloride/methanol 19:1 as the eluent. There were obtained 1.54 g (76%) of (S)-8-chloro-1-(5-diethylaminomethyl-1,2,4-oxadiazol-3-yl)-11,12,13,13a-tetrahydro-9H-imidazo-[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one as a pale yellow oil. A sample was recrystallized from ether and gave white crystals; m.p. 151°-153° and [α]D20 =+35.5° (MeOH, c=1%).

reactant | (S)-8-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 4.74 mmol, 1.85 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CCl)CCC1)=O | C17H13Cl2N5O2
reactant | diethylamine | 23.7 mmol, 1.73 g | C(C)NCC | C4H11N
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (S)-8-chloro-1-(5-diethylaminomethyl-1,2,4-oxadiazol-3-yl)-11,12,13,13a-tetrahydro-9H-imidazo-[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 1.54 g, 76% | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CN(CC)CC)CCC1)=O | C21H23ClN6O2
